* File: NAND2_3D.pex.netlist.pex
* Created: Sat Dec  6 12:37:57 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_3D_GND! 5 6 7 9 10
c8 7 0 0.026239f
c9 6 0 0.0247448f
r10 7 10 0.124435
r11 7 9 0.526667
r12 6 10 0.115626
r13 5 6 0.73587
.ends

.subckt PM_NAND2_3D_IN1 2 6 9 10 12 23 29
c21 29 0 0.0100023f
c22 23 0 0.00280573f
c23 18 0 0.129216f
c24 10 0 0.00237436f
c25 9 0 0.0159685f
c26 6 0 0.0184569f
c27 2 0 0.0192052f
r28 21 29 6.76
r29 19 21 89.3538
r30 19 23 0.175385
r31 18 23 0.0223169
r32 17 18 19.19
r33 14 16 89.3538
r34 12 14 0.0542857
r35 10 17 0.212696
r36 10 14 0.244286
r37 9 16 9.1
r38 5 29 1.98872
r39 5 6 32.76
r40 1 9 4.58872
r41 1 2 31.59
.ends

.subckt PM_NAND2_3D_VDD! 5 6 11 14 16
c14 17 0 0.00276279f
c15 14 0 0.0180623f
c16 11 0 0.00829593f
c17 5 0 0.0169966f
r18 14 17 0.0861081
r19 14 16 0.166667
r20 10 17 0.124293
r21 10 11 0.665
r22 5 17 0.0861081
r23 5 6 0.353333
.ends

.subckt PM_NAND2_3D_OUT 5 8 9 11 12 13 16 19 22 23
c29 22 0 7.07382e-19
c30 19 0 0.00780957f
c31 18 0 0.00262964f
c32 16 0 0.00157152f
c33 13 0 0.00631909f
c34 12 0 0.00154733f
c35 11 0 0.0925189f
c36 9 0 0.00265664f
c37 8 0 0.00191931f
c38 5 0 0.00779807f
r39 18 23 0.109779
r40 18 19 0.407143
r41 17 22 0.160909
r42 16 23 0.102917
r43 16 17 0.672308
r44 12 13 0.876923
r45 11 22 0.0418175
r46 10 12 0.212317
r47 10 11 21.7038
r48 8 22 0.160909
r49 8 9 0.730769
r50 4 9 0.212696
r51 4 5 0.407143
.ends

.subckt PM_NAND2_3D_IN2 2 6 9 10 14 17 19 23 25
c20 25 0 0.0132538f
c21 23 0 6.00413e-20
c22 19 0 0.012705f
c23 14 0 0.129416f
c24 10 0 0.00334694f
c25 9 0 0.00334845f
c26 6 0 0.0184569f
c27 2 0 0.0180505f
r28 23 25 89.3538
r29 21 23 0.271429
r30 17 19 89.3538
r31 15 17 0.160769
r32 12 15 0.0223169
r33 12 14 18.5615
r34 11 21 0.0362674
r35 11 14 0.628462
r36 10 19 5.2
r37 9 25 7.54
r38 5 10 4.58872
r39 5 6 32.76
r40 1 9 4.58872
r41 1 2 31.59
.ends

