* File: NAND3_3D.pex.netlist.pex
* Created: Sat Dec  6 14:28:08 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3_3D_IN1 2 6 9 10 12 18 20
c21 20 0 0.0117701f
c22 18 0 0.129012f
c23 10 0 0.00238422f
c24 9 0 0.0158465f
c25 6 0 0.0233334f
c26 2 0 0.0257071f
r27 20 26 7.84571
r28 18 20 89.3538
r29 17 18 17.8193
r30 14 16 89.3538
r31 12 14 0.0542857
r32 10 17 0.212317
r33 10 14 0.230714
r34 9 16 9.1
r35 6 26 46.8
r36 1 9 4.58872
r37 1 2 40.95
.ends

.subckt PM_NAND3_3D_GND! 5 6 9 11 12
c13 9 0 0.0367987f
c14 6 0 0.0199345f
c15 5 0 0.0105286f
r16 9 12 0.124435
r17 9 11 0.353333
r18 5 12 0.115626
r19 5 6 1.71
.ends

.subckt PM_NAND3_3D_IN2 2 6 9 11 14 17
c22 17 0 0.0104063f
c23 11 0 0.00744337f
c24 9 0 0.0793859f
c25 6 0 0.0169187f
c26 2 0 0.0171981f
r27 17 21 7.66469
r28 15 17 89.3538
r29 14 15 17.1679
r30 11 22 5.2
r31 9 11 89.3538
r32 9 14 0.773571
r33 6 21 48.75
r34 1 22 1.98872
r35 1 2 40.95
.ends

.subckt PM_NAND3_3D_IN3 2 6 10 11 13 16 19
c17 19 0 0.00649481f
c18 13 0 0.00712945f
c19 11 0 0.133691f
c20 10 0 0.0028159f
c21 6 0 0.0240106f
c22 2 0 0.0239882f
r23 17 19 89.3538
r24 16 17 16.0386
r25 13 24 4.77878
r26 11 13 89.3538
r27 11 16 1.28414
r28 9 19 3.9
r29 9 10 4.7687
r30 6 10 48.75
r31 2 24 40.95
.ends

.subckt PM_NAND3_3D_VDD! 6 7 12 15 18 20
c15 23 0 0.00279481f
c16 20 0 0.0123093f
c17 15 0 0.0249909f
c18 12 0 0.00946848f
c19 6 0 0.0173058f
r20 19 20 0.977143
r21 16 23 0.0861081
r22 16 18 0.566667
r23 15 19 0.246163
r24 15 18 0.26
r25 11 23 0.124293
r26 11 12 0.977143
r27 6 23 0.0861081
r28 6 7 0.353333
.ends

.subckt PM_NAND3_3D_OUT 5 8 9 11 12 13 14 17 22 26 27 31
c40 31 0 0.0103943f
c41 30 0 0.00148763f
c42 29 0 9.47048e-19
c43 26 0 0.00747405f
c44 22 0 0.00812557f
c45 17 0 0.00852073f
c46 14 0 0.0017216f
c47 13 0 0.00182109f
c48 12 0 0.00656433f
c49 11 0 0.0927196f
c50 9 0 0.0037835f
c51 8 0 0.00196666f
c52 5 0 0.0113195f
r53 26 31 0.142616
r54 26 27 0.101333
r55 20 30 0.171069
r56 20 22 0.95
r57 16 30 0.0335492
r58 16 17 0.868571
r59 15 29 0.171069
r60 14 30 0.171069
r61 14 15 0.643077
r62 12 31 0.0580149
r63 12 13 1.73923
r64 11 29 0.0335492
r65 10 13 0.212696
r66 10 11 20.2079
r67 8 29 0.171069
r68 8 9 0.730769
r69 4 9 0.212696
r70 4 5 0.868571
.ends

