* File: NAND4_3D.pex.netlist.pex
* Created: Sat Dec  6 14:31:50 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4_3D_IN1 2 6 9 10 12 18 20
c21 20 0 0.0117701f
c22 18 0 0.130319f
c23 10 0 0.00226151f
c24 9 0 0.0158194f
c25 6 0 0.0233334f
c26 2 0 0.032209f
r27 20 26 7.84571
r28 18 20 89.3538
r29 17 18 17.9957
r30 14 16 89.3538
r31 12 14 0.0542857
r32 10 17 0.212317
r33 10 14 0.230714
r34 9 16 9.1
r35 6 26 46.8
r36 1 9 4.58872
r37 1 2 50.31
.ends

.subckt PM_NAND4_3D_GND! 5 6 9 11 12
c14 9 0 0.0477773f
c15 6 0 0.0263316f
c16 5 0 0.0107091f
r17 9 12 0.124435
r18 9 11 0.353333
r19 5 12 0.115626
r20 5 6 2.318
.ends

.subckt PM_NAND4_3D_IN2 2 6 9 11 14 17
c22 17 0 0.0104043f
c23 11 0 0.00744139f
c24 9 0 0.0808017f
c25 6 0 0.0169187f
c26 2 0 0.0215331f
r27 17 21 7.66469
r28 15 17 89.3538
r29 14 15 17.3443
r30 11 22 5.2
r31 9 11 89.3538
r32 9 14 0.773571
r33 6 21 48.75
r34 1 22 1.98872
r35 1 2 50.31
.ends

.subckt PM_NAND4_3D_IN3 2 6 10 11 13 16 19
c23 19 0 0.00512762f
c24 13 0 0.00597152f
c25 11 0 0.0821004f
c26 10 0 0.00218259f
c27 6 0 0.0169187f
c28 2 0 0.0215999f
r29 17 19 89.3538
r30 16 17 18.0792
r31 13 24 4.77878
r32 11 13 89.3538
r33 11 16 1.43231
r34 9 19 3.9
r35 9 10 4.7687
r36 6 10 48.75
r37 2 24 50.31
.ends

.subckt PM_NAND4_3D_VDD! 6 7 12 15 18 20 26
c19 26 0 0.0200983f
c20 25 0 0.00279481f
c21 20 0 0.00942795f
c22 15 0 0.0154294f
c23 12 0 0.00946848f
c24 6 0 0.0173752f
r25 19 26 0.124293
r26 19 20 0.963571
r27 16 25 0.0861081
r28 16 18 0.566667
r29 15 26 0.0861081
r30 15 18 0.26
r31 11 25 0.124293
r32 11 12 0.977143
r33 6 25 0.0861081
r34 6 7 0.353333
.ends

.subckt PM_NAND4_3D_IN4 2 6 10 11 13 16 19
c21 19 0 0.0071278f
c22 13 0 0.0075986f
c23 11 0 0.133228f
c24 10 0 0.00302904f
c25 6 0 0.0240106f
c26 2 0 0.0306607f
r27 17 19 89.3538
r28 16 17 18.0938
r29 13 24 4.77878
r30 11 13 89.3538
r31 11 16 1.41769
r32 9 19 3.9
r33 9 10 4.7687
r34 6 10 48.75
r35 2 24 50.31
.ends

.subckt PM_NAND4_3D_OUT 6 9 10 12 13 14 15 18 21 24 27 28 31 36
c50 36 0 0.0168141f
c51 35 0 0.00148763f
c52 34 0 9.47048e-19
c53 31 0 0.0113537f
c54 27 0 0.00782241f
c55 21 0 0.011975f
c56 18 0 0.00773618f
c57 15 0 0.0017216f
c58 14 0 0.00200093f
c59 13 0 0.0121918f
c60 12 0 0.0936667f
c61 10 0 0.00381842f
c62 9 0 0.00196666f
c63 6 0 0.0113195f
r64 30 31 0.868571
r65 27 36 0.142616
r66 27 28 0.101333
r67 22 35 0.171069
r68 22 24 0.555385
r69 21 30 0.212696
r70 21 24 1.25692
r71 17 35 0.0335492
r72 17 18 0.868571
r73 16 34 0.171069
r74 15 35 0.171069
r75 15 16 0.643077
r76 13 36 0.0580149
r77 13 14 2.85
r78 12 34 0.0335492
r79 11 14 0.212696
r80 11 12 20.3843
r81 9 34 0.171069
r82 9 10 0.730769
r83 5 10 0.212696
r84 5 6 0.868571
.ends

