* File: NOR2.pex.netlist.pex
* Created: Fri Dec  5 23:39:29 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2_IN1 2 6 9 10 12 14
c21 14 0 0.00189567f
c22 10 0 0.00176972f
c23 9 0 0.0134462f
c24 6 0 0.032209f
c25 2 0 0.016696f
r26 14 16 89.3538
r27 12 14 0.149286
r28 9 16 7.28
r29 9 10 0.043368
r30 5 10 4.56151
r31 5 6 50.31
r32 1 10 4.56151
r33 1 2 37.05
.ends

.subckt PM_NOR2_VDD! 5 6 9 11 12
c14 9 0 0.0288165f
c15 6 0 0.0243403f
c16 5 0 0.0100675f
r17 9 12 0.0429091
r18 9 11 0.506667
r19 5 12 0.203253
r20 5 6 1.22143
.ends

.subckt PM_NOR2_GND! 5 6 11 13 18
c15 18 0 0.0192941f
c16 13 0 0.00783189f
c17 5 0 0.0168265f
r18 12 18 0.124293
r19 12 13 0.637857
r20 6 11 0.346667
r21 5 18 0.0861081
r22 5 11 0.0133333
.ends

.subckt PM_NOR2_IN2 2 6 10 12 14 16
c18 16 0 0.0140471f
c19 14 0 3.40287e-20
c20 10 0 0.00176751f
c21 6 0 0.0310544f
c22 2 0 0.016696f
r23 14 16 89.3538
r24 12 14 0.162857
r25 9 16 7.54
r26 9 10 0.043368
r27 5 10 4.56151
r28 5 6 50.31
r29 1 10 4.56151
r30 1 2 37.05
.ends

.subckt PM_NOR2_OUT 5 8 9 11 12 14 15 17 20 21 24 25
c30 24 0 7.32729e-19
c31 21 0 0.0186232f
c32 20 0 0.00354678f
c33 17 0 0.00811319f
c34 15 0 0.00285813f
c35 14 0 0.00157677f
c36 12 0 0.003612f
c37 11 0 0.00641096f
c38 9 0 0.00280356f
c39 8 0 0.00159305f
c40 5 0 0.00809488f
r41 20 25 0.110287
r42 20 21 1.39786
r43 16 17 0.519333
r44 14 25 0.102409
r45 14 15 0.643077
r46 13 24 0.171069
r47 12 16 0.213729
r48 12 13 0.613846
r49 11 15 0.212696
r50 10 24 0.0335492
r51 10 11 1.08571
r52 8 24 0.171069
r53 8 9 0.686923
r54 4 9 0.213729
r55 4 5 0.532
.ends

