* File: NOR3.pex.netlist.pex
* Created: Fri Dec  5 23:40:16 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3_IN1 2 6 9 10 12 14
c22 14 0 0.00210418f
c23 10 0 0.00151118f
c24 9 0 0.013313f
c25 6 0 0.044636f
c26 2 0 0.0164779f
r27 14 16 89.3538
r28 12 14 0.0407143
r29 9 16 9.36
r30 9 10 0.043368
r31 5 10 4.56151
r32 5 6 68.796
r33 1 10 4.56151
r34 1 2 37.05
.ends

.subckt PM_NOR3_VDD! 5 6 9 11 12
c12 9 0 0.0397053f
c13 6 0 0.0370826f
c14 5 0 0.0102908f
r15 9 12 0.0429091
r16 9 11 0.506667
r17 5 12 0.203253
r18 5 6 2.51071
.ends

.subckt PM_NOR3_IN2 2 6 11 14
c18 14 0 0.00339182f
c19 11 0 0.00547767f
c20 6 0 0.0301956f
c21 2 0 0.0120807f
r22 11 16 3.12
r23 9 11 89.3538
r24 9 14 0.203571
r25 5 16 1.98872
r26 5 6 68.796
r27 1 16 1.98872
r28 1 2 37.05
.ends

.subckt PM_NOR3_IN3 2 6 10 12 14 16
c17 16 0 0.00932084f
c18 14 0 0.00425227f
c19 10 0 0.00176121f
c20 6 0 0.0503604f
c21 2 0 0.0112132f
r22 14 16 89.3538
r23 12 14 0.095
r24 9 16 6.24
r25 9 10 0.043368
r26 5 10 4.56151
r27 5 6 87.906
r28 1 10 4.56151
r29 1 2 17.94
.ends

.subckt PM_NOR3_OUT 5 8 9 11 12 14 15 17 21 24 25
c38 24 0 7.53487e-19
c39 21 0 0.0296213f
c40 20 0 0.00291652f
c41 17 0 0.00641102f
c42 15 0 0.00130139f
c43 14 0 0.00765276f
c44 12 0 0.00393733f
c45 11 0 7.41303e-19
c46 9 0 0.00280356f
c47 8 0 5.53428e-19
c48 5 0 0.00809488f
r49 20 25 0.110287
r50 20 21 1.39786
r51 16 17 0.519333
r52 14 25 0.102409
r53 14 15 2.04615
r54 13 24 0.171069
r55 12 16 0.213729
r56 12 13 0.906154
r57 11 15 0.212696
r58 10 24 0.0335492
r59 10 11 1.08571
r60 8 24 0.171069
r61 8 9 0.394615
r62 4 9 0.213729
r63 4 5 0.532
.ends

.subckt PM_NOR3_GND! 6 7 12 14 17 20
c19 23 0 0.00276068f
c20 20 0 0.00871676f
c21 17 0 0.0244867f
c22 14 0 0.00688703f
c23 6 0 0.0171504f
r24 19 20 0.642069
r25 18 23 0.0861081
r26 17 19 0.242989
r27 17 18 0.826667
r28 13 23 0.124293
r29 13 14 0.637857
r30 7 12 0.346667
r31 6 23 0.0861081
r32 6 12 0.0133333
.ends

