* File: NOR4.pex.netlist.pex
* Created: Fri Dec  5 23:40:53 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR4_IN1 2 6 9 10 12 14
c18 14 0 0.00209902f
c19 10 0 0.00176972f
c20 9 0 0.013313f
c21 6 0 0.0617386f
c22 2 0 0.016696f
r23 14 16 89.3538
r24 12 14 0.149286
r25 9 16 7.28
r26 9 10 0.043368
r27 5 10 4.56151
r28 5 6 97.89
r29 1 10 4.56151
r30 1 2 37.05
.ends

.subckt PM_NOR4_VDD! 6 9 11 12
c12 9 0 0.0520553f
c13 6 0 0.0504142f
c14 5 0 0.0106408f
r15 9 12 0.0429091
r16 9 11 0.506667
r17 5 12 0.203253
r18 5 6 2.755
.ends

.subckt PM_NOR4_IN2 2 6 10 14
c19 14 0 0.00783008f
c20 10 0 0.00107996f
c21 6 0 0.0400391f
c22 2 0 0.0120415f
r23 14 18 4.97012
r24 14 17 7.32826
r25 12 14 89.3538
r26 10 12 0.131538
r27 6 18 92.82
r28 2 17 37.05
.ends

.subckt PM_NOR4_IN3 2 6 10 14
c18 14 0 0.00655224f
c19 10 0 0.00163332f
c20 6 0 0.0401396f
c21 2 0 0.0121047f
r22 14 18 4.93616
r23 14 17 7.16473
r24 12 14 89.3538
r25 10 12 0.0876923
r26 6 18 92.82
r27 2 17 37.44
.ends

.subckt PM_NOR4_GND! 6 8 10 13 15 19 25
c21 25 0 0.0175595f
c22 24 0 0.00276068f
c23 19 0 0.006998f
c24 13 0 0.0148691f
c25 10 0 0.00688703f
c26 6 0 0.0172373f
r27 18 25 0.120134
r28 18 19 0.615862
r29 14 24 0.0861081
r30 14 15 0.4
r31 13 25 0.0889215
r32 13 15 0.426667
r33 9 24 0.124293
r34 9 10 0.637857
r35 6 24 0.0861081
r36 6 8 0.0133333
.ends

.subckt PM_NOR4_IN4 2 6 10 14
c14 14 0 0.00723581f
c15 10 0 0.00131335f
c16 6 0 0.058488f
c17 2 0 0.0168314f
r18 14 18 4.7687
r19 14 17 7.8887
r20 12 14 89.3538
r21 10 12 0.0730769
r22 6 18 92.82
r23 2 17 37.44
.ends

.subckt PM_NOR4_OUT 6 9 10 12 13 15 16 18 21 24 28 33
c46 32 0 8.60958e-19
c47 31 0 8.84876e-19
c48 28 0 0.0442929f
c49 27 0 0.00281336f
c50 24 0 0.007938f
c51 21 0 0.00730024f
c52 18 0 0.00569034f
c53 16 0 0.00329302f
c54 15 0 0.0112224f
c55 13 0 0.00130368f
c56 12 0 0.00888381f
c57 10 0 0.00288698f
c58 9 0 0.00176951f
c59 6 0 0.00809488f
r60 27 33 0.114325
r61 27 28 2.67462
r62 23 24 0.577037
r63 22 32 0.180951
r64 21 23 0.212415
r65 21 22 1.82692
r66 17 32 0.0259362
r67 17 18 0.519333
r68 15 33 0.0979924
r69 15 16 2.87923
r70 14 31 0.171069
r71 13 32 0.180951
r72 13 14 0.613846
r73 12 16 0.212696
r74 11 31 0.0335492
r75 11 12 1.43857
r76 9 31 0.171069
r77 9 10 0.686923
r78 5 10 0.213729
r79 5 6 0.532
.ends

