* File: NOR2_3D.pex.netlist.pex
* Created: Sat Dec  6 14:35:00 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2_3D_IN1 2 6 9 10 12 18 20
c20 20 0 0.0120017f
c21 18 0 0.132083f
c22 10 0 0.00190742f
c23 9 0 0.0157233f
c24 6 0 0.0323445f
c25 2 0 0.016696f
r26 20 26 7.84571
r27 18 20 89.3538
r28 17 18 18.1857
r29 14 16 89.3538
r30 12 14 0.149286
r31 10 17 0.212317
r32 10 14 0.135714
r33 9 16 7.28
r34 6 26 50.7
r35 1 9 4.58872
r36 1 2 37.05
.ends

.subckt PM_NOR2_3D_VDD! 6 9 11 12
c10 9 0 0.0290321f
c11 6 0 0.0255396f
c12 5 0 0.0104617f
r13 9 12 0.0429091
r14 9 11 0.506667
r15 5 12 0.203253
r16 5 6 1.22143
.ends

.subckt PM_NOR2_3D_GND! 5 6 11 13 18
c15 18 0 0.0195272f
c16 13 0 0.00783189f
c17 5 0 0.016788f
r18 12 18 0.124293
r19 12 13 0.637857
r20 6 11 0.346667
r21 5 18 0.0861081
r22 5 11 0.0133333
.ends

.subckt PM_NOR2_3D_IN2 2 6 9 12 15 19 21
c20 21 0 0.0130258f
c21 15 0 0.0116086f
c22 12 0 0.134736f
c23 9 0 0.00334845f
c24 6 0 0.0310544f
c25 2 0 0.016696f
r26 19 21 89.3538
r27 17 19 0.257857
r28 15 27 7.66469
r29 13 15 89.3538
r30 12 13 17.48
r31 10 17 0.0223169
r32 10 12 0.719286
r33 9 21 7.54
r34 6 27 50.31
r35 1 9 4.58872
r36 1 2 37.05
.ends

.subckt PM_NOR2_3D_OUT 5 8 9 11 12 14 15 17 20 21 24 25
c31 24 0 7.82005e-19
c32 21 0 0.0186232f
c33 20 0 0.00496378f
c34 17 0 0.00811319f
c35 15 0 0.00294439f
c36 14 0 0.00196715f
c37 12 0 0.00400239f
c38 11 0 0.0878925f
c39 9 0 0.00280356f
c40 8 0 0.00183737f
c41 5 0 0.00809488f
r42 20 25 0.110287
r43 20 21 1.39786
r44 16 17 0.519333
r45 14 25 0.102409
r46 14 15 0.643077
r47 13 24 0.171069
r48 12 16 0.213729
r49 12 13 0.613846
r50 11 15 0.212696
r51 10 24 0.0335492
r52 10 11 19.6786
r53 8 24 0.171069
r54 8 9 0.686923
r55 4 9 0.213729
r56 4 5 0.532
.ends

